US05472978
3,5-Dimethylbenzyl 3-(3-indolyl)-2-benzamidopropionate
Following the method of Example 4b), benzoyl chloride (500 μL) and 3,5-dimethylbenzyl 2-amino-3-(3-indolyl)propionate hydrochloride (500 mg) gave the title compound after chromatography on silica using ethyl acetate/petroleum ether (3:2) (0.21 g), m.p. 133°-134° C. 1H NMR (360 MHz, CDCl3) δ8.10 (1H, s), 7.67 (1H, d, J=7 Hz), 7.53 (1H, d, J=7 Hz), 7.49-7.25 (4H, m), 7.17 (1H, t, J=7 Hz), 7.05 (1H, t, J=7 Hz), 6.97 (1H, s), 6.89 (2H, s), 6.82 (1H, d, J=2 Hz), 6.68 (1H, d, J=8 Hz), 5.18 (1H, m), 5.06 (2H, s), 3.45 (2H, m), 2.3 (6H, s). Found: C, 75.24; H, 6.20; N, 6.50; C27H26N2O3. 0.25(H2O) requires C, 74.90; H, 6.22; N, 6.51%.

reactant | 3,5-dimethylbenzyl 2-amino-3-(3-indolyl)propionate hydrochloride | 500 mg | Cl.NC(C(=O)OCC1=CC(=CC(=C1)C)C)CC1=CNC2=CC=CC=C12
solvent | benzoyl chloride | 500 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 3,5-Dimethylbenzyl 3-(3-indolyl)-2-benzamidopropionate | N1C=C(C2=CC=CC=C12)CC(C(=O)OCC1=CC(=CC(=C1)C)C)NC(C1=CC=CC=C1)=O | C27H26N2O3
